US06894050B2
Preparation of Intermediate (3-Fluoro-benzyl)-(3,4,5,6-tetrahydro-2H-[1,2′]bipyrazinyl-6′-yl)-carbamic acid tert-butyl ester (I-4c)
A solution of (6-chloro-pyrazin-2-yl)-(3-fluoro-benzyl)-carbamic acid tert-butyl ester (1.14 g, 3.39 mmol) and piperazine (1.75 g, 20 mmol) in EtOH (34 mL) was stirred at reflux for 19 h. The reaction mixture was cooled and concentrated in vacuo. The residue was dissolved in Ethyl Acetate and washed with H2O (4×50 mL), brine, dried (Na2SO4), and concentrated to dryness. The crude product was chromatographed on Silica Gel (90 g) using 5% MeOH in CH2Cl2 as the eluant to give the title compound I-4c (1.09 g) as a pale yellow oil.

reactant | (6-chloro-pyrazin-2-yl)-(3-fluoro-benzyl)-carbamic acid tert-butyl ester | 3.39 mmol, 1.14 g | C(C)(C)(C)OC(N(CC1=CC(=CC=C1)F)C1=NC(=CN=C1)Cl)=O | C16H17ClFN3O2
reactant | piperazine | 20 mmol, 1.75 g | N1CCNCC1 | C4H10N2
solvent | EtOH | 34 mL | CCO | C2H6O
product | (3-Fluoro-benzyl)-(3,4,5,6-tetrahydro-2H-[1,2′]bipyrazinyl-6′-yl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N(C1=CN=CC(=N1)N1CCNCC1)CC1=CC(=CC=C1)F)=O | C20H26FN5O2
